US06821971B2
Preparation of 2-methylsulfanyl-pyrimidine-4-carbonyl chloride (16):
To a solution of 2-methylsulfanyl-pyrimidine-4-carboxylic acid (20 g, 117.7 mmol) in CH2Cl2 (100 mL) is added oxalyl chloride (17.2 g, 197 mmol) and DMF (20 drops). The reaction solution is stirred at room temperature for 18 hours after which the solvent is removed in vacuo to afford 21.2 g, (95% yield) of the desired product as a dark green solid.

reactant | 2-methylsulfanyl-pyrimidine-4-carboxylic acid | 117.7 mmol, 20 g | CSC1=NC=CC(=N1)C(=O)O | C6H6N2O2S
reactant | oxalyl chloride | 197 mmol, 17.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 20 drops | CN(C)C=O | C3H7NO
product | 2-methylsulfanyl-pyrimidine-4-carbonyl chloride | 95% yield | CSC1=NC=CC(=N1)C(=O)Cl | C6H5ClN2OS
